US06869954B2
1) Preparation of 4-(1-hydroxyethyl)-2-fluorotoluene
To an ice-cold solution of 3-fluoro-4-methylbenzaldehyde (50 mg, 0.36 mmol) in THF (0.5 mL) was added dropwise a 0.93 M solution (0.47 mL) of methylmagnesium bromide (0.44 mmol) in THF. The temperature of the reaction mixture was allowed to rise back to room temperature, at which the reaction mixture was stirred for 1 hour. Then, 2 mol/L hydrochloric acid was added, and the mixture was extracted with ethyl acetate. The extract was washed with brine and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to yield title compound as a pale yellow oil (55.8 mg, quantitative).

reactant | 3-fluoro-4-methylbenzaldehyde | 0.36 mmol, 50 mg | FC=1C=C(C=O)C=CC1C | C8H7FO
reactant | methylmagnesium bromide | 0.44 mmol | C[Mg]Br
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 4-(1-hydroxyethyl)-2-fluorotoluene | 55.8 mg | OC(C)C1=CC(=C(C=C1)C)F | C9H11FO
